US04659706
A mixture of 8-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride (1 g, 3.5 mmol), 37% aqueous formaldehyde (1.1 g) and platinum oxide (0.1 g) in ethanol (25 ml) was shaken under an atmosphere of hydrogen (60 psi). The mixture was degassed, filtered and concentrated at reduced pressure to give 3-methyl-8-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride.

reactant | 8-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 3.5 mmol, 1 g | Cl.COC=1C(=CC2=C(CCNCC2)C1)S(=O)(=O)C
reactant | formaldehyde | 1.1 g | C=O | CH2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | 3-methyl-8-methoxy-7-methylsulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.CN1CCC2=C(CC1)C=C(C(=C2)S(=O)(=O)C)OC | InChI=1S/C13H19NO3S.ClH/c1-14-6-4-10-8-12(17-2)13(18(3,15)16)9-11(10)5-7-14;/h8-9H,4-7H2,1-3H3;1H
